US06624196B2
In a manner similar to that described in Example 3, cinnamoyl chloride (0.057 g, 0.00034 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.049 g of 4-[4-(cinnamoylamino)-phenyl]-4-oxo-butyric acid as a yellow solid; MS-(AP+) MH+324.

reactant | cinnamoyl chloride | 0.00034 mol, 0.057 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-[4-(cinnamoylamino)-phenyl]-4-oxo-butyric acid | 0.049 g | C(C=CC1=CC=CC=C1)(=O)NC1=CC=C(C=C1)C(CCC(=O)O)=O | C19H17NO4
